US04374196
3-Allyl-2,4-dimethylthiazolium bromide (Comparative Compound)
2,4-Dimethylthiazole (6.04 g, 0.05 mole), 3-bromopropene (6.6 g, 0.055 mole) and butyronitrile (25 ml) were combined and refluxed for 2 hours. Upon cooling a brown oil solidified into a wet ivory powder (8.15 g) which was collected by filtration. The powder was dissolved in methanol, combined with aqueous potassium bromide to make the bromide salt, treated with decolorizing charcoal and filtered while hot. The filtrate was poured into ethyl ether to force the bromide salt out of solution as an oil. The ethyl ether was decanted and the oil which remained was chilled in a dry ice/acetone bath, filtered and dried at 60° to yield 3.86 g (33%) of the title compound as a solid; m.p. 130° C.

reactant | 2,4-Dimethylthiazole | 0.05 mole, 6.04 g | CC=1SC=C(N1)C | C5H7NS
reactant | 3-bromopropene | 0.055 mole, 6.6 g | BrCC=C | C3H5Br
reactant | butyronitrile | 25 ml | C(CCC)#N | C4H7N
product | 3-Allyl-2,4-dimethylthiazolium bromide | 3.86 g, 33% | [Br-].C(C=C)[N+]1=C(SC=C1C)C | InChI=1S/C8H12NS.BrH/c1-4-5-9-7(2)6-10-8(9)3;/h4,6H,1,5H2,2-3H3;1H/q+1;/p-1
